US08440666B2
1-(3-Methoxypyridazin-4-yl)ethanamine Hydrochloride
1-(6-Chloro-3-methoxypyridazin-4-yl)ethanamine (67.3 mg, 0.36 mmol) and 10% palladium-carbon (50 wt %, 20 mg) were stirred in methanol (5 mL) under hydrogen atmosphere (1 atm) at room temperature for 16 hours. After filtering through celite, the filtrate was evaporated under reduced pressure. The resulting crude reaction product was used for the next step.

reactant | 1-(6-Chloro-3-methoxypyridazin-4-yl)ethanamine | 0.36 mmol, 67.3 mg | ClC1=CC(=C(N=N1)OC)C(C)N | C7H10ClN3O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 20 mg | [C].[Pd]
product | 1-(3-Methoxypyridazin-4-yl)ethanamine Hydrochloride | Cl.COC=1N=NC=CC1C(C)N | InChI=1S/C7H11N3O.ClH/c1-5(8)6-3-4-9-10-7(6)11-2;/h3-5H,8H2,1-2H3;1H
